US06359013B1
E-4-chlorostyryl phenyl sulfone
A solution of phenyl sulfonylacetic acid (0.01 mol) and 4-chlorobenzaldehyde (0.01 mol) was subjected to Procedure 1. The title compound was obtained in 78-80% yield.

reactant | phenyl sulfonylacetic acid | 0.01 mol | C1(=CC=CC=C1)S(=O)(=O)CC(=O)O | C8H8O4S
reactant | 4-chlorobenzaldehyde | 0.01 mol | ClC1=CC=C(C=O)C=C1 | C7H5ClO
product | E-4-chlorostyryl phenyl sulfone | 78-80% yield | C1(=CC=CC=C1)S(=O)(=O)\C=C\C1=CC=C(C=C1)Cl | C14H11ClO2S
